US06818652B2
A solution of 2-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptan-1-ol (2.1 g, 7.62 mmole) in 30 mL of THF was treated with 32 mL of a 1M sodium bis(trimethylsilyl)amide solution in THF. The reaction mixture was stirred at room temperature for 30 minutes and then a solution of 3.5 g of di-t-butyl dicarbonate in 30 mL of THF was added. The mixture was stirred at room temperature for 15 hours, quenched by the addition of 100 mL saturated aqueous ammonium chloride solution and extracted with three 100 mL portions of ether. The combined organic phases were dried over MgSO4, filtered and concentrated in vacuo to give an orange oil. The residue was taken up in 100 mL of methanol and treated with 10 mL of 1% potassium carbonate aqueous solution. The mixture was stirred at room temperature for two hours, concentrated in vacuo and the residue diluted with 200 mL of ether. The organic solution was washed with two 100 mL portions of water and 100 mL of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to give a dark yellow oil. The product was purified by flash chromatography (SiO2, 10% ethyl acetate in hexanes) to yield 0.757 g of 7-(1-hydroxymethyl-hexyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester as a yellow oil.

reactant | 2-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptan-1-ol | 7.62 mmole, 2.1 g | CC1(CCNC2=CC(=CC=C12)C(CO)CCCCC)C | C18H29NO
reactant | sodium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-t-butyl dicarbonate | 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 10 mL | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | 7-(1-hydroxymethyl-hexyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.757 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)C(CCCCC)CO)(C)C | C23H37NO3
